US07696223B2
c) 4-tert-Butyl-1-(4-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester
A mixture of 3,3-dimethyl-1-nitro-but-1-ene (6.2 g, 36 mmol) and ethyl acetoacetate, sodium salt (5.76 g, 36 mmol) in ether (50 mL) was stirred at 0° C. for 30 min; then the reaction was quenched with saturated ammonium chloride aqueous solution, the ether layer was washed with saturated NaCl aqueous solution dried over anhydrous sodium sulfate, filtered, concentrated, to give a mixture, which was used next reaction without further purification and characterization. The above mixture was refluxed with 4-fluoroaniline (4.09 mL, 43.2 mmol), and TsOH monohydrate (343 mg, 1.8 mmol) in toluene (100 mL) was refluxed overnight, the generated water was collected with a Dean-Stark distillation apparatus; then the reaction was cooled to room temperature, diluted with EtOAc, washed with diluted HCl aqueous solution, saturated sodium bicarbonate aqueous solution, and saturated NaCl aqueous solution respectively, then dried over anhydrous sodium sulfate filtered, concentrated, the residue was purified with column to give a slightly brown oil, the title product (1.904 g); The title compound, ESI MS (m/z): 304 (M+H+).

reactant | 3,3-dimethyl-1-nitro-but-1-ene | 36 mmol, 6.2 g | CC(C=C[N+](=O)[O-])(C)C | C6H11NO2
reactant | ethyl acetoacetate | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | sodium | 36 mmol, 5.76 g | [Na] | Na
reactant | 4-fluoroaniline | 43.2 mmol, 4.09 mL | FC1=CC=C(N)C=C1 | C6H6FN
solvent | ether | 50 mL | CCOCC | C4H10O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-tert-Butyl-1-(4-fluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester | 1.904 g | C(C)OC(=O)C1=C(N(C=C1C(C)(C)C)C1=CC=C(C=C1)F)C | C18H22FNO2
